US07741341B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(3-hydroxy-azetidine-1-carbonyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(3-hydroxy-azetidine-1-carbonyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 50.0 mg (0.08 mmol) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-4-carboxylic acid and 8.7 mg (0.12 mmol) azetidin-3-ol. The title compound was obtained as its formiate in form of a white amorphous solid.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-4-carboxylic acid | 0.08 mmol, 50.0 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=CC(=C2C(=O)O)OCC(F)(F)F)C(NC2CCN(CC2)C(C)C)=O | C27H27ClF3N5O5S
reactant | azetidin-3-ol | 0.12 mmol, 8.7 mg | N1CC(C1)O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(3-hydroxy-azetidine-1-carbonyl)-5-(2,2,2-trifluoro-ethoxy)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CC1=NOC(=C1)C=1SC(=CC1)Cl)C=CC(=C2C(=O)N2CC(C2)O)OCC(F)(F)F | C30H32ClF3N6O5S
